US06844295B2
To 1.0 g (4.1 mmol) of 2-(m-trifluoromethylbenzyl)butanoic acid was added 0.98 g (8.2 mol) of thionyl chloride, and the resulting mixture was refluxed for 3 hours. Thionyl chloride was removed by an evaporator to obtain 1.0 g of 2-(m-trifluoromethylbenzyl)butanoic acid chloride as a colorless liquid.

reactant | 2-(m-trifluoromethylbenzyl)butanoic acid | 4.1 mmol, 1.0 g | FC(C=1C=C(CC(C(=O)O)CC)C=CC1)(F)F | C12H13F3O2
reactant | thionyl chloride | 8.2 mol, 0.98 g | S(=O)(Cl)Cl | Cl2OS
product | 2-(m-trifluoromethylbenzyl)butanoic acid chloride | 1.0 g | FC(C=1C=C(CC(C(=O)Cl)CC)C=CC1)(F)F | C12H12ClF3O
